US07384968B2
A mixture of 2-(S)-amino-pentanoic acid [5-(5-methoxy-1,5-dimethyl-hexyl)-thiazol-2-yl]-amide HCl salt (100 mg, 0.265 mmol) and 3-heptanone (0.1 mL), acetic acid (0.2 mL), sodium sulfate and sodium cyanoborohydride (100 mg) in dichloroethane (2 mL) and methanol (1 mL) was stirred at 40° C. overnight. The mixture was quenched with water, basified by dilute sodium hydroxide, and extracted with methylene chloride. The organic layer was concentrated to dryness. The residue was purified by Biotage silica gel column chromatography to isolate 2-(S)-(1-propyl-butylamino)-pentanoic acid [5-(5-hydroxy-1,5-dimethyl-hexyl)-thiazol-2-yl]-amide as a colorless oil, LC-MS, RT=2.2 min, M+1=426.5.

reactant | 2-(S)-amino-pentanoic acid [5-(5-methoxy-1,5-dimethyl-hexyl)-thiazol-2-yl]-amide HCl salt | 0.265 mmol, 100 mg | Cl.COC(CCCC(C)C1=CN=C(S1)NC([C@H](CCC)N)=O)(C)C
reactant | 3-heptanone | 0.1 mL | CCC(CCCC)=O | C7H14O
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium cyanoborohydride | 100 mg | C(#N)[BH3-].[Na+]
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
solvent | methanol | 1 mL | CO | CH4O
solvent | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
product | 2-(S)-(1-propyl-butylamino)-pentanoic acid [5-(5-hydroxy-1,5-dimethyl-hexyl)-thiazol-2-yl]-amide | OC(CCCC(C)C1=CN=C(S1)NC([C@H](CCC)NC(CCC)CCC)=O)(C)C | C23H43N3O2S
